US07402595B2
2-benzyl-6-chloro-4-(2,4-difluorophenyl)-1-oxo-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
The present compound was synthesized by a method similar to that in Example 272 and using 2-benzyl-6-chloro-1-oxo-4-trifluoromethanesulfonyloxy-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester (100 mg) and 2,4-difluorophenylboronic acid. A colorless powder (9 mg).

reactant | 2-benzyl-6-chloro-1-oxo-4-trifluoromethanesulfonyloxy-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 100 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1OS(=O)(=O)C(F)(F)F)Cl)=O)CC1=CC=CC=C1 | C19H13ClF3NO6S
reactant | 2,4-difluorophenylboronic acid | FC1=C(C=CC(=C1)F)B(O)O | C6H5BF2O2
product | 2-benzyl-6-chloro-4-(2,4-difluorophenyl)-1-oxo-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=C(C=C(C=C1)F)F)Cl)=O)CC1=CC=CC=C1 | C24H16ClF2NO3
